US04147672
109 g of CuCl were added in small portions to a Grignard solution prepared from 26.4 g of magnesium turnings and 156.2 g of methyliodide in 200 ml diethylether under a nitrogen atmosphere. To the reaction mixture there were then added 124 g of 4,4-dimethyl-cyclohex-2-en-1-one in ether solution and the whole was refluxed for 2 h. The mixture was then hydrolysed with a saturated aqueous solution of ammonium chloride and subjected to the usual treatments to afford on distillation 88 g (63% yield) of 3,4,4-trimethyl-cyclohexanone;

reactant | magnesium | 26.4 g | [Mg] | Mg
reactant | methyliodide | 156.2 g | CI | CH3I
reactant | 4,4-dimethyl-cyclohex-2-en-1-one | 124 g | CC1(C=CC(CC1)=O)C | C8H12O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
catalyst | CuCl | 109 g | Cl[Cu]
product | 3,4,4-trimethyl-cyclohexanone | 88 g, 63% yield | CC1CC(CCC1(C)C)=O | C9H16O
